US04532248
1,4-Dihydro-2,6-dimethyl-3,5-dinitro-4-(3-nitrophenyl)-pyridine
23.6 g (0.1 mol) of 2-nitro-1-(3nitrophenyl)-but-1-ene-3-one and 10.2 g (0.1 mol) of 2-amino-1-nitro-prop-1-ene in 150 ml of ethanol were heated under reflux for 12 hours. After the mixture had cooled, the solvent was distilled off in vacuo, and the oily residue was taken up in chloroform, and was chromatographed on a silica gel column, using chloroform with the addition of methanol. The product formed yellow crystals of melting point 237°-240° C. (decomposition) in isopropanol.

reactant | 2-nitro-1-(3nitrophenyl)-but-1-ene-3-one | 0.1 mol, 23.6 g | [N+](=O)([O-])C(=CC1=CC(=CC=C1)[N+](=O)[O-])C(C)=O | C10H8N2O5
reactant | 2-amino-1-nitro-prop-1-ene | 0.1 mol, 10.2 g | NC(=C[N+](=O)[O-])C | C3H6N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1,4-Dihydro-2,6-dimethyl-3,5-dinitro-4-(3-nitrophenyl)-pyridine | CC=1NC(=C(C(C1[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-])[N+](=O)[O-])C | C13H12N4O6
